US07893056B2
To a solution of (2S)-2-amino-1-propanol (5.01 g, 66.70 mmol) in toluene (130 mL) was added benzaldehyde (7.08 mL, 70.05 mmol). The flask was fitted with a Dean-Stark trap, and the solution was heated at 150° C. for 2 h. The solution was then cooled to room temperature and concentrated in vacuo. To a 0° C. solution of the residue in EtOH (130 mL) was added NaBH4 (6.31 g, 166.8 mmol) and sufficient 4 N HCl in dioxane to adjust the pH to ca. 2. The mixture was stirred overnight and then concentrated in vacuo. The residue was partitioned between 1 N aq. HCl (200 mL) and DCM (100 mL). The aqueous phase was washed with a fresh portion of DCM (100 mL), and then adjusted to pH>13 with 6 N aq. NaOH. The aqueous phase was extracted with DCM (2×150 mL), and the combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to provide (2S)-2-[(phenylmethyl)amino]-1-propanol (10.52 g, 95%) as a colorless oil. LCMS: (M+H)+: 166.1.

reactant | (2S)-2-amino-1-propanol | 66.70 mmol, 5.01 g | N[C@H](CO)C | C3H9NO
reactant | benzaldehyde | 70.05 mmol, 7.08 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH4 | 166.8 mmol, 6.31 g | [BH4-].[Na+]
reactant | HCl | 4 N | Cl | ClH
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 130 mL | CCO | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S)-2-[(phenylmethyl)amino]-1-propanol | 10.52 g, 95% | C1(=CC=CC=C1)CN[C@H](CO)C | C10H15NO
